US09290511B2
i) 6-bromo-5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine
To a stirred solution of 6-bromo-4-chloro-5-phenyl-thieno[2,3-d]pyrimidine (0.820 g, 2.52 mmol) in THF (50 mL), was added diisopropylethylamine (0.65 mL, 3.78 mmol) and 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine (0.801 g, 3.78 mmol) in one portion, and the reaction left to stir at room temperature overnight. The reaction was diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The reaction was dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography using DCM: MeOH (0-25%) as eluent to afford the named product (0.828 g, 66%).

reactant | 6-bromo-4-chloro-5-phenyl-thieno[2,3-d]pyrimidine | 2.52 mmol, 0.820 g | BrC1=C(C2=C(N=CN=C2Cl)S1)C1=CC=CC=C1 | C12H6BrClN2S
reactant | diisopropylethylamine | 3.78 mmol, 0.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine | 3.78 mmol, 0.801 g | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 6-bromo-5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine | 0.828 g, 66% | BrC1=C(C2=C(N=CN=C2N2CCC(CC2)COCCN2CCCC2)S1)C1=CC=CC=C1 | C24H29BrN4OS
